US05491172
Sodium hydroxide (0.23 g, 5.7 mmol) was added to a solution of 3-[2,4,6-tris(1-methylethyl)phenyl]-2-propenyl carboxylic acid, methyl ester (1.5 g, 5.2 mmol) in 100 mL methanol and 10 mL water. Stirred at room temperature for 48 hours and concentrated to dryness. Partitioned theresidue between water and diethyl ether. The aqueous layer was acidified with concentrated HCl and extracted with dichloromethane. The organic extract was dried over MgSO4, filtered, and concentrated to give 1.33g of 3-[2,4,6-tris-(1-methylethyl)phenyl]-2-propenyl carboxylic acid as a white solid, mp 201°-203° C.

reactant | Sodium hydroxide | 5.7 mmol, 0.23 g | [OH-].[Na+]
reactant | 3-[2,4,6-tris(1-methylethyl)phenyl]-2-propenyl carboxylic acid, methyl ester | 5.2 mmol, 1.5 g | CC(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)C=CCC(=O)OC | C20H30O2
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 3-[2,4,6-tris-(1-methylethyl)phenyl]-2-propenyl carboxylic acid | 1.33g | CC(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)C=CCC(=O)O | C19H28O2
